2121-06-07 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hct rose one point with one unit of blood
   - transfused a second unit
   - GI c/s - will scope on Mon
   - call out in AM if stable
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-7**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 52 (52 - 60) bpm
   BP: 100/38(52) {100/38(52) - 125/61(77)} mmHg
   RR: 14 (11 - 15) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
           Total In:
                                                                  1,370 mL
                                                                    798 mL
   PO:
                                                                    145 mL
           TF:
   IVF:
                                                                    525 mL
                                                                    448 mL
   Blood products:
                                                                    700 mL
                                                                    350 mL
   Total out:
                                                                  2,770 mL
                                                                    480 mL
   Urine:
                                                                  2,770 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Pale conjunctiva.  MM moist.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, [**1-3**] late systolic murmur,
   no rads to carotid appreciated. PPM in place, s/p sternotomy.
   Abdomen:Obese. Soft. Normoactive BS.  Non-tender. No rebound/guarding.
   Negative [**Doctor Last Name **].
   Ext: Prominent non-pitting LE edema.  Not changed from baseline per
   patient.
   Skin:  Psoriatic lesions most notable on back/buttocks and abdommen
   with scattered lesions on chest, legs.  Increased erythema peri
   [**Last Name (un) **]-labial folds, not new per patient.
   Labs / Radiology
   26.2 %
        [image002.jpg]
                             [**2121-6-6**]  05:39 PM
                             [**2121-6-7**]  12:27 AM
   Hct
   25.5
   26.2
   TropT
   0.01
   Other labs: CK / CKMB / Troponin-T:26//0.01
   Assessment and Plan
 BRADYCARDIA
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ANEMIA, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RASH
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   69M with CAD, CHF and MDS p/w hypotension, anemia, guaiac positive
   stool.
   #  GIB:  There was one report of black stool, which is suspicious for
   upper GI source.  Ddx includes PUD, gastritis.  On ED exam, rectal exam
   was gross blood, which could indicate brisk upper bleed versus lower
   source, ddx includes AVMs, diverticula, mass, hemorrhoids.  Pt has been
   hemodynamically stable since initial resuscitation. No further bleeding
   episodes in ICU.
   -GI c/s appreciated. Plan to EGD/[**Last Name (un) **] on Monday, NPO after MN sunday
   with clears during day and golytely prep.
   -Hold coumadin, give 1 dose vitamin K to reverse. No FFP unless
   re-bleeds or hemodynamically unstable.
   -Given significant cardiac history will continue ASA at lower dose
   (81mg daily) and clopidogrel.
   -IV PPI [**Hospital1 **]
   -H. pylori antibody
   -Surgery aware
   -2 PIVs in place
   -Q8 hour Hcts
   -Transfuse to goal of 30, hct after first unit PRBCs 25.5, will give
   another unit tonight and re-check.
   #  Hypotension.  Unclear how acute this is. The patient is not
   symptomatic with his low blood pressure in terms of lightheadedness or
   syncope.  BPs 90/40 at last clinic visit, this may be in part due to
   GIB as well as increase in ACEI and lasix recently
   -hold lasix and ACEI tonight, restart lasix preferentially, possibly in
   AM if stable overnight, may do more urgently if develops more fluid
   overload.
   -Consider decreased dose ACEI for discharge if it is re-started.
   -GIB management per above.
   -hold nitro patch for now.
   #  Anemia - Pt has known MDS and B12 deficiency with baseline HCT
   29-30.  Acute drop to 24.4 since [**5-29**] in setting of GIB.
   -transfuse per above
   -o/p f/u with Dr. [**First Name (STitle) 322**] for continued EPO and B12 injections.
   #  CAD. Prior CABG and last PCI at OSH 15 months ago.  Having some
   increased incidence of jaw pain which pt recognizes as anginal
   equivalent. No active jaw pain or chest discomfort since admission. CEs
   normal initially with unremarkable ECG.  No current evidence for active
   ischemia, but is high risk in setting of prior coronary disease and
   anemia.
   -continue ASA and plavix, if bleeds or is unstable can reverse with
   platelets.
   -Continue BB
   -CEs tonight and in AM.
   -d/c nitro patch given hypotension as above. Can use SL nitro prn if
   necessary.
   # [**Last Name (un) **] - acute on chronic renal insufficiency with baseline cr 1.5-1.6,
   recently 1.9. 2.3 on admission down to 2.2. Suspect chronic progressive
   renal disease with superimposed injury from hypotension/hypoperfusion.
   -Monitor after blood, hydration today
   -hold ACEI
   -monitor.
   # FEN: Lytes with am labs.  Low sodium cardiac diet.  Bolus PRN to keep
   systolic BP >90, UOP >30.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-6-6**] 02:19 PM
   18 Gauge - [**2121-6-6**] 02:20 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2121-06-08 12:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeat Hct's fairly stable
   - on clear liquid diet
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-6-7**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-8**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 61 (57 - 80) bpm
   BP: 116/50(66) {109/42(58) - 136/63(77)} mmHg
   RR: 16 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  1,608 mL
                                                                  1,400 mL
   PO:
                                                                    145 mL
                                                                  1,400 mL
   TF:
   IVF:
                                                                    485 mL
   Blood products:
                                                                    978 mL
   Total out:
                                                                  2,165 mL
                                                                    655 mL
   Urine:
                                                                  2,165 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -557 mL
                                                                    745 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General
 Alert and oriented; in no acute distress
   CV
 2/6 systolic murmur heard loudest at the LUSB; no rubs or gallops
   appreciated
   Resp
 clear to auscultation bilaterally
   Abdomen
 soft, non-tender, non-distended
   Extremities
 significant swelling in the lower extremities that is
   chronic
   Labs / Radiology
   122 K/uL
   9.6 g/dL
   94 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   40 mg/dL
   112 mEq/L
   144 mEq/L
   28.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2121-6-6**]  05:39 PM
                             [**2121-6-7**]  12:27 AM
                             [**2121-6-7**]  05:37 AM
                             [**2121-6-7**]  12:10 PM
                             [**2121-6-7**]  03:15 PM
                             [**2121-6-7**]  05:23 PM
                             [**2121-6-7**]  09:40 PM
                             [**2121-6-8**]  03:38 AM
                             [**2121-6-8**]  10:07 AM
   WBC
   5.2
   5.1
   Hct
   25.5
   26.2
   26.7
   30.2
   28.5
   30.0
   31.5
   28.8
   28.9
   Plt
   135
   122
   Cr
   1.7
   1.5
   TropT
   0.01
   0.01
   Glucose
   90
   94
   Other labs: PT / PTT / INR:19.2/31.9/1.8, CK / CKMB /
   Troponin-T:30//0.01, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   INR 1.8
   Micro
 H pylori from [**6-7**] pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BRADYCARDIA
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ANEMIA, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RASH
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   69M with CAD, CHF and MDS p/w hypotension, anemia, guaiac positive
   stool.
   #  GIB
 the patient has been hemodynamically stable
   - repeat Hcts have been stable
   - on clears
   - GI plans for scope on Monday; will prep today
   - given vit K and FFP to reverse INR to 1.8
   - holding asa and plavix given bleed
   - cont IV PPI
   - f/u H pylori Ab
   #  Hypotension.
 likely [**12-30**] GIB in the setting of recently increased
   Lasix and ACEi
   - lasix and ACEi held
   - beta blocker held as well
   - nitro patch held
   - will start home lasix
   #  Anemia
 pt has h/o myelodysplastic syndrome and B12 def. with a
   baseline Hct of ~30
   - hematocrit now 29
   #  CAD
 pt has recently had some jaw pain, which is an anginal
   equivalent for him
 has not had this pain since being in the hospital
   - CE
s negative x 3
   - holding asa and plavix for now
   - beta blocker held; nitro patch held.
   # [**Last Name (un) **]
   - baseline Cr 1.5-1.6; 2.3 on admission; now 1.7
   - Cr improved with blood and fluids
 continue to monitor renal
   function
   # FEN: on clears, golytely prep tonight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-6-6**] 02:19 PM
   18 Gauge - [**2121-6-6**] 02:20 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care
   I have seen and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points:
   His INR is down to 1.7 and Hct stable at 29 after 4 units of pRBC
   His stool output is brown and he is now on clears. He will begin prep
   for EGD and colonoscopy for tomorrow. Other medications including PO
   lasix will be started today to help with edema and mild desaturation
   with exertion. He will leave the ICU today.
   Time: 25 mins
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2121-6-8**] 14:50 ------